US05648511
L-Phenylalaninol (5 g, 33 mmoles and 3.59 g (33.83 mmoles) of benzaldehyde were dissolved in 55 mL of 3A ethanol under inert atmosphere in a Parr shaker and the mixture was warmed to 60° C. for 2.7 hours. The mixture was cooled to approximately 25° C. and 0.99 g of 5% platinum on carbon was added and the mixture was hydrogenated at 60 psi of hydrogen and 40° C. for 10 hours. The catalyst was filtered off, the product was concentrated under reduced pressure and the crude solid product was recrystallized from 150 mL of heptane to give 3.83 g(48 % yield) of N-benzyl-L-phenylalaninol as a white solid.

reactant | L-Phenylalaninol | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | benzaldehyde | 33.83 mmoles, 3.59 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum on carbon | 0.99 g | [Pt] | Pt
product | N-benzyl-L-phenylalaninol | 3.83 g, 48 % yield | C(C1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)CO | C16H19NO
